US03931199
1.68 g of powdered anhydrous aluminum chloride is added to a solution of 1.15 g of 2-(p-acetylphenoxy)nicotinoyl chloride in 5 ml of nitrobenzene at 20°-30°C, and the mixture is heated at 80°C for 3.5 hours. After cooling, water is added to the reaction mixture to decompose the aluminum chloride. After removing the nitrobenzene by distillation, the mixture is extracted with chloroform, and the extract is concentrated. The residue is recrystallized from toluene to give 7-acetyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine melting at 195-196°C.

reactant | aluminum chloride | 1.68 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(p-acetylphenoxy)nicotinoyl chloride | 1.15 g | C(C)(=O)C1=CC=C(OC2=C(C(=O)Cl)C=CC=N2)C=C1 | C14H10ClNO3
reactant | water | O | H2O
solvent | nitrobenzene | 5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 7-acetyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine | C(C)(=O)C=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C14H9NO3
